US07172274B2
A mixture of guanidine hydrochloride (200 parts) and hexamethylene diamine (292 parts) were heated to 120° C. for 4 hours under a nitrogen atmosphere The temperature was then raised to 150–170° C. for a further 5 hours. The mixture was cooled to 80° C. and water (400 parts) was added, maintaining the temperature at 80° C. until dissolution occurred. The mixture was then cooled to give a solution in water of polyhexamethyleneguanidine, referred to as Prepolymer 1, having a weight average molecular weight (Mw) of 1010 and a number average molecular weight (Mn) of 710, as determined by aqueous gel permeation chromatography.

reactant | guanidine hydrochloride | Cl.NC(=N)N
reactant | hexamethylene diamine | NCCCCCCN | C6H16N2
solvent | water | O | H2O
product | polyhexamethyleneguanidine | CCCCNC(=NCCCC)N | C9H21N3
